US07504403B2
1-{2-[2-(4-Hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one:
1-(2-methanesulfonyl-pyrimidin-4-yl)-8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one (1.1 g, 2.9 mmol) and [4-(2-amino-propyl)-phenyl]-methanol (0.96 g, 5.8 mmol) in 1:1 dioxane: 1-methyl-2-pyrrolidinone (16 mL) was heated to 100° C. for 20 h. The mixture was partitioned between water (30 mL) and ethyl acetate (60 mL). The organic phase was separated, washed with water, saturated sodium bicarbonate, brine, dried over magnesium sulfate and chromatographed on silica gel using 0-8% 2M NH3 MeOH/CH2Cl2 to afford a white solid. M+1=469. 1NMR (CDCl3) d (3H, 1.21 ppm), s (1H, 1.79 ppm), m (2H, 2.22 ppm), m(1H, 2.79 ppm), m (1H, 2.98 ppm), m (4H, 4.11 ppm), m (1H, 4.13 ppm), b(3H, 4.68 ppm), s (1H, 6.60 ppm), d (2H, 7.21 ppm), d (3H, 7.29 ppm), m (3H, 7.44 ppm), dd (2H, 7.91 ppm), d (1H, 8.17 ppm).

reactant | 1-(2-methanesulfonyl-pyrimidin-4-yl)-8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 2.9 mmol, 1.1 g | CS(=O)(=O)C1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2 | C18H17N5O3S
reactant | [4-(2-amino-propyl)-phenyl]-methanol | 5.8 mmol, 0.96 g | NC(CC1=CC=C(C=C1)CO)C | C10H15NO
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | 1-methyl-2-pyrrolidinone | 16 mL | CN1C(CCC1)=O | C5H9NO
product | 1-{2-[2-(4-Hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | OCC1=CC=C(C=C1)CC(C)NC1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2 | C27H28N6O2
